US07138425B2
e) 2-[3-(5-Bromobenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-propylaminophenyl)-5-bromobenzoxazole (87 mg, 0.25 mmol) and 1,2,4-benzenetricarboxylic anhydride (54 mg, 0.28 mmol) the title compound was obtained (77 mg, 59%). 1H NMR (DMSO) δ 8.41(dd, 1H), 8.37(t, 1H), 8.30(s, 1H), 8.09–8.05(m, 3H), 7.74(d, 1H), 7,57(dd, 1H), 7.48(dd, 1H), 7.03(d, 1H), 3.34(m, 2H), 1.74(m, 2H), 1.05(t, 3H). MS 518.0 m/z (M−H)−.

reactant | 2-(3-amino-6-propylaminophenyl)-5-bromobenzoxazole | 0.25 mmol, 87 mg | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)Br | C16H16BrN3O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.28 mmol, 54 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Bromobenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | BrC=1C=CC2=C(N=C(O2)C=2C=C(C=CC2NCCC)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C1 | C25H18BrN3O5
